US04224254
Using a similar method to Example 1, a mixture of 300 parts of 3-(p-tert.-butylphenyl)-2-methyl-1-propanol and 200 parts of water with 250 parts of air and 250 parts of nitrogen is passed per hour over the catalyst at 560° C. and 1.1 bar. The residence time is 0.025 second and the throughput is 0.42 tonne/m2.h. 211 parts of 3-(p-tert.-butylphenyl)-2-methylpropanal (in the form of a 77 percent strength by weight organic phase) are obtained per hour, corresponding to a yield of 71% of theory. The conversion is 95 percent and the space-time yield is 10 grams of 3-(p-tert.-butylphenyl)-2-methylpropanal per cm3 of catalyst volume per hour.

reactant | 3-(p-tert.-butylphenyl)-2-methyl-1-propanol | C(C)(C)(C)C1=CC=C(C=C1)CC(CO)C | C14H22O
solvent | water | O | H2O
product | 3-(p-tert.-butylphenyl)-2-methylpropanal | yield of 71% | C(C)(C)(C)C1=CC=C(C=C1)CC(C=O)C | C14H20O
